US09255089B2
To tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-((5-fluoropyridin-2-yl)(hydroxy)methyl)-1H-benzo[d]imidazole-1-carboxylate (57 mg, 0.12 mmol) in dichloromethane (6 mL) was added Dess-Martin periodinane (154.1 mg, 0.34 mmol). After 15 minutes, the reaction was quenched with saturated Na2S2O3(aq) (10 mL) and extracted with dichloromethane (3×10 mL). The combined organics were washed with water (30 mL) and brine (30 mL), and dried over Na2SO4. To the crude solution was added N,N-diisopropylethylamine (0.05 mL, 0.26 mmol), 4-(dimethylamino)pyridine (6.8 mg, 0.05 mmol), and di-tert-butyl dicarbonate (120.9 mg). After 90 minutes, the reaction mixture was washed with water (2×30 mL), dried over Na2SO4, and concentrated in vacuo. Purification by flash chromatography (0-50% ethyl acetate/hexane) afforded tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-(5-fluoropicolinoyl)-1H-benzo[d]imidazole-1-carboxylate as an amber residue.

reactant | tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-((5-fluoropyridin-2-yl)(hydroxy)methyl)-1H-benzo[d]imidazole-1-carboxylate | 0.12 mmol, 57 mg | CC1=NOC(=C1C=1C=C(C2=C(N(C(=N2)OCC)C(=O)OC(C)(C)C)C1)C(O)C1=NC=C(C=C1)F)C | C25H27FN4O5
reactant | Dess-Martin periodinane | 0.34 mmol, 154.1 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | N,N-diisopropylethylamine | 0.26 mmol, 0.05 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyl dicarbonate | 120.9 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 0.05 mmol, 6.8 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-(5-fluoropicolinoyl)-1H-benzo[d]imidazole-1-carboxylate | CC1=NOC(=C1C=1C=C(C2=C(N(C(=N2)OCC)C(=O)OC(C)(C)C)C1)C(C1=NC=C(C=C1)F)=O)C | C25H25FN4O5
